US08003649B2
A solution of tert-butyl piperazine-1-carboxylate (1.30 g, 6.99 mmol)], 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine (0.93 g, 3.50 mmol), bis(dibenzylideneacetone)palladium (0.101 g, 0.17 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.163 g, 0.26 mmol) and sodium tert-butoxide (0.84 g, 8.74 mmol) in xylenes (30 mL) was sealed into a microwave tube and degassed for 10 minutes. The reaction mixture was heated at 100° C. for 30 minutes and then cooled to ambient temperature. The reaction mixture was diluted with water (20 mL) and then extracted with ethyl acetate (2×40 mL). The organic phases were combined, dried over Na2SO4, filtered, and evaporated to give an involatile residue. The residue was purified by flash chromatography on silica-gel using an increasing gradient of ethyl acetate in isohexane as eluant to give tert-butyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)piperazine-1-carboxylate (0.86 g, 66.2%) as a yellow solid.

reactant | tert-butyl piperazine-1-carboxylate | 6.99 mmol, 1.30 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | 3.50 mmol, 0.93 g | BrC=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C7H3BrF3N3
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.26 mmol, 0.163 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 8.74 mmol, 0.84 g | CC(C)([O-])C.[Na+]
catalyst | bis(dibenzylideneacetone)palladium | 0.17 mmol, 0.101 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | tert-butyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)piperazine-1-carboxylate | 0.86 g, 66.2% | FC(C1=NN=C2N1C=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C16H20F3N5O2
